US04822787
To a solution of allyl (4R)-4-[(2R,3S)-3-{(1R)-1-t-butyldimethylsilyloxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate (6.52 g) and triethylamine (6.8 ml) in acetonitrile (50 ml) was added a lM solution (17 ml) of p-toluenesulfonyl azide in acetonitrile at 0°-5° C. and the mixture was stirred at the same temprature for 2 hours. The mixture was concentrated under reduced pressure to give a residue. The residue was triturated with hexane. The precipitates were filtered off. The filtrate was concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (80 g) and eluted with a mixture of ethyl acetate and hexane (1:9 V/V) to give allyl (4R)-2-diazo-4-[(2R,3S)-3{(1R)-1-t-butyldimetylsilyloxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate (3.78 g).

reactant | allyl (4R)-4-[(2R,3S)-3-{(1R)-1-t-butyldimethylsilyloxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate | 6.52 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H](NC1=O)[C@H](C(CC(=O)OCC=C)=O)C | C19H33NO5Si
reactant | triethylamine | 6.8 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl azide | 17 ml | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | allyl (4R)-2-diazo-4-[(2R,3S)-3{(1R)-1-t-butyldimetylsilyloxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate | 3.78 g | [N+](=[N-])=C(C(=O)OCC=C)C([C@H](C)[C@H]1NC([C@@H]1[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)=O | C19H31N3O5Si
